US06288120B1
Ethyl 7-{[4-(3-formyl-thiophen-2-yl)-benzyl]-methanesulfonyl-amino}-heptanoate
Tetrakis(triphenylphosphine)palladium(0) (91 mg, 0.08 mmol), Na2CO3 (0.87 mL, 1 M) and 5-formyl-2-thiopheneboronic acid (247 mg, 1.58 mmol) were added to a solution of ethyl 7-{[4-iodobenzyl]-methanesulfonyl-amino}-heptanoate (371 mg, 0.79 mmol) in toluene (33 mL) and EtOH (6.5 mL). The reaction mixture was heated at reflux for 3 h. The solution was diluted with EtOAc and the organic solution was washed with water (2× followed by brine (1×). The organic solution was dried over MgSO4, filtered, and concentrated in vacuo. The product was purified via radial chromatography (25% EtOAc/hexanes to 50% EtOAc/hexanes) to afford the title compound of Step A (75 mg). 1H NMR (400 MHz, CDCl3) δ 9.89 (s, 1 H), 7.44-7.60 (m, 5H), 7.21-7.31 (m, 1H), 4.45 (s, 2H), 4.10 (q, 2H), 3.20 (t, 2H), 2.90 (s, 3H), 2.25 (t, 3H), 1.58 (m, 4H), 1.35 (m, 7H); MS 452 (M+).

reactant | Na2CO3 | 1 M, 0.87 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-formyl-2-thiopheneboronic acid | 1.58 mmol, 247 mg | C(=O)C1=CC=C(S1)B(O)O | C5H5BO3S
reactant | ethyl 7-{[4-iodobenzyl]-methanesulfonyl-amino}-heptanoate | 0.79 mmol, 371 mg | IC1=CC=C(CN(CCCCCCC(=O)OCC)S(=O)(=O)C)C=C1 | C17H26INO4S
solvent | toluene | 33 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 6.5 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.08 mmol, 91 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 7-{[4-(3-formyl-thiophen-2-yl)-benzyl]-methanesulfonyl-amino}-heptanoate | 75 mg | C(=O)C1=C(SC=C1)C1=CC=C(CN(CCCCCCC(=O)OCC)S(=O)(=O)C)C=C1 | C22H29NO5S2
